*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-02[uF]/50[V]
* Murata P/N :GRM155R71H103JA88
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H103JA88 Port1 Port2
C01 Port1 N01 9.66e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.81e-10
R03 N02 N03 4.87e-02
C04 N03 N04 8.69e-07
R04 N03 N04 1.77e+00
C05 N04 N05 7.39e-07
R05 N04 N05 3.60e-01
C06 N05 N06 9.13e-07
R06 N05 N06 6.29e-02
C07 N06 N07 5.45e-07
R07 N06 N07 2.36e-02
L08 N07 N08 5.77e-11
R08 N07 N08 2.28e-01
C09 N08 N09 1.55e-07
L09 N08 N09 4.43e-12
R09 N08 N09 1.53e-02
C10 N09 N10 9.52e-09
L10 N09 N10 3.19e-11
R10 N09 N10 7.37e-02
C11 N10 Port2 4.31e-12
L11 N10 Port2 6.52e-11
R11 N10 Port2 1.11e+01
.ENDS GRM155R71H103JA88
